US09079835B2
To a flame-dried round-bottomed flask was added pentynol (1 equiv., 24 mmol, 2.0 g) and CH2Cl2 (80 mL). The solution was cooled to 0° C. and BzCl (1.2 equiv., 28 mmol, 3.3 mL) was added dropwise, followed by DMAP (0.1 equiv., 2.4 mmol, 300 mg), and Et3N (7 mL). The reaction was warmed to ambient temperature over 12 h, quenched with 2N HCl (10 mL), extracted with EtOAc (2×40 mL), washed with brine (40 mL) and dried over Na2SO4. The purified product was isolated by concentrating in vacuo and purifying by flash chromatography (2.5% EtOAc/Hex) to afford pent-4-yn-1-yl benzoate (4.02 g, 21.4 mmol, 89%). TLC Rf=0.57 (10% EtOAc/Hex); 1HNMR (600 MHz): δ 8.03-8.07 (2H), 7.53-7.60 (1H), 7.42-7.48 (2H), 4.44 (t, 2H, J=6.1 Hz), 2.40 (td, 2H, J=7.3, 2.7 Hz), 1.98-2.05 (overlapping signals, 3H); 13CNMR (150 MHz): δ166.5, 132.9, 130.3, 129.6, 128.3, 83.0, 69.1, 63.4, 27.7, 15.4.

reactant | pentynol | 24 mmol, 2.0 g, 1 equiv. | C(#CCCC)O | C5H8O
reactant | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
reactant | BzCl | 28 mmol, 3.3 mL, 1.2 equiv. | C(=O)(C1=CC=CC=C1)Cl | C7H5ClO
catalyst | DMAP | 2.4 mmol, 300 mg, 0.1 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Et3N | 7 mL | CCN(CC)CC | C6H15N
product | pent-4-yn-1-yl benzoate | 21.4 mmol, 4.02 g, 89% | C(C1=CC=CC=C1)(=O)OCCCC#C | C12H12O2
